US04587340
(+-)-2-Amino-5,6,7,8-tetrahydro-6-methoxymethyl-4(3H)-pteridinone
2-Amino-6-methoxymethyl-4(3H)-pteridinone-8-oxide. 2,4-Diamino-6-methoxymethylpteridine-8-oxide (E. C. Taylor and T. Kobayashi, J. Org. Chem., 2817, 38, (1973)) was treated with sodium hydroxide in a manner analogous to that described in Example 1 to give the title compound as a solid mp >250°. UV: (0.1N HCl) λmax 262(22600), 290 sh (4900), 388 (6100) nm; NMR: δ (TFA) 3.69 (s, OCH3); 4.89 (s, OCH2); 8.95 (s, H-7). IR: (KBr) 1725, 1700, 1650, 1605, 1490, 1480, 1390, 1360, 1325, 1235, 1155, 1110, 1065d, 1015d, 970 cm-1. Anal. calcd: C, 43.05; H, 4.06; N, 31.38. Found: C, 42.79; H, 4.14; N, 31.21.

reactant | 2-Amino-6-methoxymethyl-4(3H)-pteridinone-8-oxide | NC1=NC2=[N+](C=C(N=C2C(N1)=O)COC)[O-] | C8H9N5O3
reactant | 2,4-Diamino-6-methoxymethylpteridine-8-oxide | NC1=NC2=[N+](C=C(N=C2C(=N1)N)COC)[O-] | C8H10N6O2
reactant | sodium hydroxide | [OH-].[Na+]
product | (+-)-2-Amino-5,6,7,8-tetrahydro-6-methoxymethyl-4(3H)-pteridinone | NC1=NC=2NCC(NC2C(N1)=O)COC | C8H13N5O2
